US07425634B2
(7b) 4-((2,2-bis(fluoromethyl)-1,3-dioxan-5-yl)methoxy)-2,3-dimethylpyridine 1-oxide
To a dimethylsulfoxide (10 ml) solution of the (2,2-bis(fluoromethyl)-1,3-dioxan-5-yl)methanol (1.6 g, 8.98 mmol) obtained in the step (7a), sodium hydride, in oil (431 mg, 9.88 mmol as the content was regarded as 55%) was added at room temperature. To the mixture, 4-chloro-2,3-dimethylpyridine 1-oxide (1.42 g, 8.98 mmol) was added and the mixture was stirred at 60° C. for 2 hours. After the reaction mixture was cooled to room temperature, it was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: ethyl acetate/methanol) to obtain the title compound (1.63 g, yield: 60.6%) as a yellow oil.

reactant | (2,2-bis(fluoromethyl)-1,3-dioxan-5-yl)methanol | 8.98 mmol, 1.6 g | FCC1(OCC(CO1)CO)CF | C7H12F2O3
reactant | sodium hydride | [H-].[Na+]
reactant | 4-chloro-2,3-dimethylpyridine 1-oxide | 8.98 mmol, 1.42 g | ClC1=C(C(=[N+](C=C1)[O-])C)C | C7H8ClNO
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 4-((2,2-bis(fluoromethyl)-1,3-dioxan-5-yl)methoxy)-2,3-dimethylpyridine 1-oxide | 1.63 g, yield: 60.6% | FCC1(OCC(CO1)COC1=C(C(=[N+](C=C1)[O-])C)C)CF | C14H19F2NO4
